US09056874B2
(±)-2-((5-(Difluoromethoxy)-7-methyl-1H-indol-4-yl)(methylamino)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of a mixture of tert-butyl 4-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(hydroxy)methyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate and tert-butyl 4-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(hydroxy)methyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate (20 mg, 0.033 mmol) and methylamine (2.0M in THF, 0.17 mL, 0.33 mmol) in THF (0.33 mL) at room temperature, TBAF (1M in THF, 0.33 mL, 0.33 mmol) was added and the mixture was stirred at 55° C. After stirring overnight the reaction was cooled to room temperature, quenched with sat. aq. NH4Cl, extracted with EtOAc, and the organic extract was dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-100% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.22 (br. s., 1H) 7.94 (br. s., 1H) 7.60 (d, J=8.34 Hz, 1H) 7.49 (dd, J=8.34, 1.52 Hz, 1H) 7.29 (t, J=2.78 Hz, 1H) 7.06 (t, J=75.5 Hz, 1H) 6.81 (s, 1H) 6.49 (dd, J=3.03, 2.02 Hz, 1H) 5.55 (s, 1H) 2.46 (d, J=0.76 Hz, 3H) 2.36 (s, 3H). HRMS calcd. for C20H17F2N5O (M+H)+ 382.1474. found 382.1489.

reactant | tert-butyl 4-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(hydroxy)methyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C2=C3C=CN(C3=C(C=C2OC(F)F)C)C(=O)OC(C)(C)C)O)COCC[Si](C)(C)C)C=C1 | C30H36F2N4O5Si
reactant | tert-butyl 4-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(hydroxy)methyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate | 0.033 mmol, 20 mg | C(#N)C=1C=CC2=C(N(C(=N2)C(C2=C3C=CN(C3=C(C=C2OC(F)F)C)C(=O)OC(C)(C)C)O)COCC[Si](C)(C)C)C1 | C30H36F2N4O5Si
reactant | methylamine | 0.33 mmol, 2.0M, 0.17 mL | CN | CH5N
reactant | TBAF | 0.33 mmol, 1M, 0.33 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 0.33 mL | C1CCOC1 | C4H8O
product | (±)-2-((5-(Difluoromethoxy)-7-methyl-1H-indol-4-yl)(methylamino)methyl)-1H-benzo[d]imidazole-5-carbonitrile | FC(OC=1C(=C2C=CNC2=C(C1)C)C(C1=NC2=C(N1)C=CC(=C2)C#N)NC)F | C20H17F2N5O
